US03947585
The starting material is prepared as follows: The mixture of 68 g of 5-chloro-2-methylbenzoic acid and 170 ml of thionyl chloride is refluxed for 1 hour, evaporated under reduced pressure and the residual acid chloride dried in a high vacuum. It is taken up in 500 ml of benzene and the solution added dropwise to the suspension of 100 g of anhydrous aluminum chloride and 600 ml of benzene while stirring and cooling with an ice bath. Thereupon the bath is removed and the mixture stirred at room temperature for 16 hours. It is combined with some ice, followed by 340 ml of 2N hydrochloric acid and the mixture stirred for a half hour. It is diluted with diethyl ether, the organic layer separated and washed with 5% sodium hydroxide and saturated aqueous sodium chloride, dried and evaporated under reduced pressure, to yield the 5-chloro-2-methylbenzophenone showing in the I.R. spectrum a strong band at 1660 cm-1.

reactant | 5-chloro-2-methylbenzoic acid | 68 g | ClC=1C=CC(=C(C(=O)O)C1)C | C8H7ClO2
solvent | thionyl chloride | 170 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloro-2-methylbenzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)C | C14H11ClO
